US06486167B1
2,3,8-Trimethoxybenzo[i]phenanthridine
A mixture of 2-(4-methoxy-6-nitrophenyl)-6,7-dimethoxy-1-naphthaldehyde (30 mg, 0.81 mmol) in acetic acid (3 ml) and zinc dust (100 mg, 1.5 mmol) was heated to reflux for 3 hours. Acetic acid was evaporated in vacuo and the residue extacted with chloroform. The chloroform solution was filtered through a celite bed. The filtrate was washed successively with saturated sodium bicarbonate solution and brine and evaporated to dryness. The residue obtained was chromatographed on 75 g silica using a 1:1 mixture of hexanes:ethyl acetate as eluent to give the title compound (20 mg, 77%); IR (KBr) 1615, 1518, 1272; 1H NMR (CDCl3) δ4.02 (3H, s), 4.08 (3H, s), 4.18 (3H, s), 7.33 (1H, s), 7.37 (1H, dd, J=9.1, 2.6 Hz), 7.54 (1H, d, J=2.6), 8.05 (1H, d, J=8.7), 8.42 (1H, d, J=8.7), 8.56 (1H, d, J=9.1), 10.05 (1H, s); 13C NMR δ56.1, 56.5, 56.6, 102.2, 108.6, 109.5, 119.0, 119.2, 119.3, 120.6, 124.1, 125.8, 127.6, 131.4, 131.7, 146.7, 148.4, 150.1, 151.1, 160.3; HRMS calcd for C24H12NO3; 319.1208; found 319.1209.

reactant | 2-(4-methoxy-6-nitrophenyl)-6,7-dimethoxy-1-naphthaldehyde | 0.81 mmol, 30 mg | COC1=CC=C(C(=C1)[N+](=O)[O-])C1=C(C2=CC(=C(C=C2C=C1)OC)OC)C=O | C20H17NO6
solvent | acetic acid | 3 ml | C(C)(=O)O | C2H4O2
catalyst | zinc | 1.5 mmol, 100 mg | [Zn] | Zn
product | 2,3,8-Trimethoxybenzo[i]phenanthridine | 20 mg, 77% | COC1=CC2=C(C=3C=NC=4C=C(C=CC4C3C=C2)OC)C=C1OC | C20H17NO3
